US05342846
A suspension of N-benzyl-3-[(methylsulphonyl)oxy]pyrrolidine (2.2 g, 9.37 mmol) and sodium 1,2,3,4-tetrazolide (1.8 g, 19.6 mmol) in 50 ml of dimethylformamide was heated at 85-90° C. overnight. The reaction mixture was worked up the same as described in Example U. The crude product was purified over silica gel using hexane, ether and ethyl acetate as eluant to afford in order of elution 0.413 g of N-benzyl-3-(1,2,3,4-tetrazol-2-yl) pyrrolidine as an oil. 1H NMR (CDCl3) δ: 8.51 (s, 1H), 7.37-7.17 (m, 5H), 5.51-5.35 (m, 1H), 3.8-3.65 (q, 2H), 3.3-2.4 (m, 6H); and.26 g of N-benzyl-3-(1,2,3,4-tetrazol-1-yl)pyrrolidine as an oil. 1H NMR (CDCl3) 6 : 8.88 (s, 1H), 7.4-7.2 (m, 5H), 5.35-5.2 (m, 1H), 3.83-3.6 (q, 2 H), 3.2-2.3 (m, 5H), 2.15-2.00 (m, 1H).

reactant | N-benzyl-3-[(methylsulphonyl)oxy]pyrrolidine | 9.37 mmol, 2.2 g | C(C1=CC=CC=C1)N1CC(CC1)OS(=O)(=O)C | C12H17NO3S
reactant | sodium 1,2,3,4-tetrazolide | 19.6 mmol, 1.8 g | N1N=NN=[C-]1.[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-benzyl-3-(1,2,3,4-tetrazol-2-yl) pyrrolidine | 0.413 g | C(C1=CC=CC=C1)N1CC(CC1)N1N=CN=N1 | C12H15N5
